US06323235B1
7-hydroxy-3-(2-hydroxyethyl)benzofuran
Methyl (7-hydroxybenzofuran-3-yl)acetate (1.46 g) was dissolved in THF (30 ml) and the solution was cooled to 0° C. To this solution, lithium aluminum hydride (269 mg) was added and the solution was stirred for 3.5 hours. After making the pH of the reaction solution not more than 2 by adding 1N hydrochloric acid, the reaction solution was poured into water layer (50 ml) and the resultant was extracted twice with ethyl acetate (20 ml). After combining the organic layers, the resultant was washed with saturated brine and dried over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=1/1) using silica gel to obtain the desired compound (1.09 g, yield: 86%).

reactant | Methyl (7-hydroxybenzofuran-3-yl)acetate | 1.46 g | OC1=CC=CC=2C(=COC21)CC(=O)OC | C11H10O4
reactant | lithium aluminum hydride | 269 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | water | 50 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 7-hydroxy-3-(2-hydroxyethyl)benzofuran | 1.09 g, yield: 86% | OC1=CC=CC=2C(=COC21)CCO | C10H10O3
